US04495357
3-(4-Nitrophenyl)pyridine
3-Phenylpyridine (25.0 g, 0.161 mole) is added carefully and with cooling (ice-bath) to 70% nitric acid (140 ml). The resulting solution is stirred and, when TLC (1:1 acetone-hexane) shows no reaction after 24 hr, it is heated in a 70° C. oil bath. Some reaction is observed by TLC but it is very slow and so, after 4 days, concentrated sulfuric acid (50 ml) is added. The mixture is stirred over several days at room temperature after which the starting material is entirely consumed. The solution is poured onto ice and the mixture is made alkaline by the cautious addition of 50% aqueous NaOH. The mixture is extracted 3 times with ethyl acetate. (650 ml), the combined organic layers are washed with brine, dried over MgSO4, filtered, and reduced in volume to 400 ml. Crystallization occurred, giving a first crop of 13.139 g of tilted product, melting point of 145°-148° C. and, from the concentrated filtrate, a second crop of 4.16 g (total 17.299 g, 0.0865 mole, 53%) of product, melting point 143°-147° C.

reactant | 3-Phenylpyridine | 0.161 mole, 25.0 g | C1(=CC=CC=C1)C=1C=NC=CC1 | C11H9N
reactant | nitric acid | 140 ml | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | 50 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetone hexane | CC(=O)C.CCCCCC
product | 3-(4-Nitrophenyl)pyridine | 13.139 g | [N+](=O)([O-])C1=CC=C(C=C1)C=1C=NC=CC1 | C11H8N2O2
